US04824468
2-(m-Chlorophenyl)-5-ethyl-1,3-oxazolidine
Twenty-five grams of m-chlorobenzaldehyde was combined with 15.8 g of 1-amino-2-butanol and heated on the rotary evaporator for 1 hour to remove water. The yield was 37.9 g, nD30 1.5741.

reactant | m-chlorobenzaldehyde | Twenty-five grams | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 1-amino-2-butanol | 15.8 g | NCC(CC)O | C4H11NO
product | 2-(m-Chlorophenyl)-5-ethyl-1,3-oxazolidine | ClC=1C=C(C=CC1)C1OC(CN1)CC | C11H14ClNO
